US09421205B2
(d) tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate (I137)
Zinc chloride (1.0 M in Et2O) (1.40 mL, 1.40 mmol) was added to a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (180 μL, 1.29 mmol) in 1:1 DCE/t-BuOH (10 mL) at 0° C. under a stream of nitrogen gas. The mixture was stirred for 1 hour at 0° C. and then tert-butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate (I136) (0.307 g, 1.17 mmol) in 1:1 DCE/tBuOH (10 mL) was added. A solution of NEt3 (0.180 mL, 1.29 mmol, 1.1 eq) in 1:1 DCE/t-BuOH (5 mL) was next added dropwise at 0° C. The reaction mixture was vigorously stirred for a further 30 minutes at 0° C. after the final addition and then at room temperature for 16 hours. The solvent was removed in vacuo to afford a brown oily residue which was purified by column chromatography on silica gel (0-50% EtOAc in petroleum benzine 40-60° C.) to yield a pale yellow solid. The solid was suspended in MeOH (15 mL) and water (15 mL). The precipitate was filtered to afford the title compound (I137) (0.449 g, 87%) as a pale yellow solid; 1H NMR (400 MHz, CDCl3)1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 7.53 (d, J=8.5 Hz, 2H), 7.40 (s, 1H), 7.26 (s, 2H), 3.92-3.73 (m, 1H), 3.69-3.51 (m, 1H), 3.48-3.22 (m, 3H), 2.26 (s, 1H), 2.03-1.90 (m, 1H), 1.48 (s, 9H). LCMS Method C: rt 6.68 min; m/z 443.0 [M+H]+, 441.1 [M−H]−.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 1.29 mmol, 180 μL | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | DCE t-BuOH | 10 mL | ClCCCl.CC(C)(C)O
reactant | tert-butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate | 1.17 mmol, 0.307 g | NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
reactant | DCE tBuOH | 10 mL | ClCCCl.CC(C)(C)O
reactant | NEt3 | 1.29 mmol, 0.180 mL, 1.1 eq | CCN(CC)CC | C6H15N
reactant | DCE t-BuOH | 5 mL | ClCCCl.CC(C)(C)O
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
catalyst | Zinc chloride | 1.40 mmol, 1.0 M, 1.40 mL | [Cl-].[Zn+2].[Cl-]
product | tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C20H22ClF3N4O2
